US07763657B2
4-tert-Butyl-benzylamine (1.5 eq, 71.91 μl, 0.44 mmol) was added in CH2Cl2 and then BOC2O (1.5 eq, 0.44 mmol, 101.19 μl) and DMAP (0.2 eq, 0.06 mmol, 7.08 mg) were slowly added. After confirming the synthesis of the 1-tert-Butyl-4-isocyanatomethyl-benzene, N-(4-Aminomethyl-2-methyl-6-vinyl-phenyl)-methanesulfonamide (1 eq, 0.29 mmol, 70.5 mg) and TEA (2 eq, 0.58 mmol, 80.84 μl) were added into the reaction mixture. The reaction mixture was stirred for 12 hr. The reaction mixture was purified according to step 9 of example 7 to obtain N-{4-[3-(4-tert-Butyl-benzyl)ureidomethyl]-2-methyl-6-vinylphenyl}methanesulfonamide (29.75 mg, 23.9%).

reactant | 4-tert-Butyl-benzylamine | 0.44 mmol, 71.91 μl, 1.5 eq | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
reactant | BOC2O | 0.44 mmol, 101.19 μl, 1.5 eq | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | 1-tert-Butyl-4-isocyanatomethyl-benzene | C(C)(C)(C)C1=CC=C(C=C1)CN=C=O | C12H15NO
reactant | N-(4-Aminomethyl-2-methyl-6-vinyl-phenyl)-methanesulfonamide | 0.29 mmol, 70.5 mg, 1 eq | NCC1=CC(=C(C(=C1)C=C)NS(=O)(=O)C)C | C11H16N2O2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.06 mmol, 7.08 mg, 0.2 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-{4-[3-(4-tert-Butyl-benzyl)ureidomethyl]-2-methyl-6-vinylphenyl}methanesulfonamide | 29.75 mg, 23.9% | C(C)(C)(C)C1=CC=C(CNC(NCC2=CC(=C(C(=C2)C=C)NS(=O)(=O)C)C)=O)C=C1 | C23H31N3O3S
